US08629148B2
48.2 3-Chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-5-iodo-1,3-dihydroindol-2-one
Pyridine (40 μl, 0.46 mmol) and thionyl chloride (35 μl, 0.46 mmol) were added successively to an ice-cooled solution of 1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypridin-3-yl)-3-hydroxy-5-iodo-1,3-dihydroindol-2-one (100 mg, 0.15 mmol) in dichloromethane (30 ml). The reaction mixture was allowed to warm to room temperature and stirred for 3 hours. Ice-water was added to the reaction mixture, and the aqueous phase was extracted with dichloromethane. The organic phase was dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting crude product (110 mg) was employed without further purification in the next stage.

reactant | Pyridine | 0.46 mmol, 40 μl | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.46 mmol, 35 μl | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypridin-3-yl)-3-hydroxy-5-iodo-1,3-dihydroindol-2-one | 0.15 mmol, 100 mg | COC1=C(C=CC(=C1)OC)S(=O)(=O)N1C(C(C2=CC(=CC=C12)I)(O)C=1C(=NC=CC1)OCC)=O | C23H21IN2O7S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Chloro-1-(2,4-dimethoxyphenylsulfonyl)-3-(2-ethoxypyridin-3-yl)-5-iodo-1,3-dihydroindol-2-one | ClC1(C(N(C2=CC=C(C=C12)I)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)C=1C(=NC=CC1)OCC | C23H20ClIN2O6S
